US07858621B2
3-(6-Bromo-pyridin-3-yl)-acrylic acid methyl ester (100 mg, 0.413 mmol) was added to piperidine (1 ml) and the mixture was stirred for 1.5 hrs at room temperature. The reaction mixture was diluted with EtOAc and then washed three times with H2O, brine, dried. Na2SO4, filtered and concentrated under reduced pressure. The obtained residue was column-chromatographed to yield 3-(6-Morpholin-4-yl-pyridin-3-yl)-acrylic acid methyl ester (40 mg, 21%).

reactant | 3-(6-Bromo-pyridin-3-yl)-acrylic acid methyl ester | 0.413 mmol, 100 mg | COC(C=CC=1C=NC(=CC1)Br)=O | C9H8BrNO2
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6-Morpholin-4-yl-pyridin-3-yl)-acrylic acid methyl ester | 40 mg, 21% | COC(C=CC=1C=NC(=CC1)N1CCOCC1)=O | C13H16N2O3
